US05919982
In accordance with the above, soil and water samples contaminated with 2,4 xylidine and 2,5 xylidine were cleaned. Spiked water samples were produced by adding specific amounts of 2,4 xylidine and 2,5 xylidine to deionized water. A soil containing 70 wt % sand, 10 wt % black earth, 10 wt % peat and 10 wt % water was produce and spiked with a xylidine/methanol solution. The methanol was thereafter evaporated by air drying at room temperature.

reactant | 2,4 xylidine | NC=1C(=CC(=CC1)C)C | C8H11N
reactant | 2,5 xylidine | NC=1C(=CC=C(C1)C)C | C8H11N
reactant | water | O | H2O
product | xylidine methanol | NC1=C(C(=CC=C1)C)C.CO | InChI=1S/C8H11N.CH4O/c1-6-4-3-5-8(9)7(6)2;1-2/h3-5H,9H2,1-2H3;2H,1H3
